US08222274B2
A 330 mg portion of 5-tert-butyl-N-(diaminomethylene)-1-[2-(2-methoxyphenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide was dissolved in 10 ml of dichloromethane, and 2.78 ml of a 1 M boron tribromide dichloromethane solution was added dropwise thereto at −70° C. under an atmosphere of argon, followed by stirring at room temperature for 14 hours. Under ice-cooling, 5 ml of methanol was added to the reaction liquid, and the reaction liquid was concentrated under a reduced pressure. The residue was subjected to three times of azeotropy with methanol, and a saturated sodium bicarbonate aqueous solution and saturated brine were added to the residue, followed by extraction with 20% methanol/chloroform. After drying the organic layer with anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure, and the residue was purified by silica gel column chromatography (Chromatorex (registered trademark), methanol:chloroform=10:90). The resulting product was dissolved in 3 ml of ethanol and, under ice-cooling, 0.263 ml of 4 M hydrogen chloride/ethyl acetate was added, followed by stirring at room temperature for 15 hours. Then, the solid formed by adding ethyl acetate was collected by filtration to obtain 206 mg of 5-tert-butyl-N-(diaminomethylene)-1-[2-(2-hydroxyphenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide hydrochloride as a light brown solid.

reactant | 5-tert-butyl-N-(diaminomethylene)-1-[2-(2-methoxyphenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide | C(C)(C)(C)C1=CC(=C(N1CCC1=C(C=CC=C1)OC)C)C(=O)N=C(N)N | C20H28N4O2
reactant | boron tribromide dichloromethane | 1 M | ClCCl.B(Br)(Br)Br
reactant | methanol | 5 ml | CO | CH4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-tert-butyl-N-(diaminomethylene)-1-[2-(2-hydroxyphenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide hydrochloride | 206 mg | Cl.C(C)(C)(C)C1=CC(=C(N1CCC1=C(C=CC=C1)O)C)C(=O)N=C(N)N | InChI=1S/C19H26N4O2.ClH/c1-12-14(17(25)22-18(20)21)11-16(19(2,3)4)23(12)10-9-13-7-5-6-8-15(13)24;/h5-8,11,24H,9-10H2,1-4H3,(H4,20,21,22,25);1H
